US09060519B2
Pyridine-3-carbothioamide (20 g, 0.145 mol) was dissolved in a mixture of toluene (145 ml) and DMF (116 ml). Ethyl bromoacetate (24.2 g, 0.145 mmol) was added and the reaction mixture was stirred at ambient temperature for 18 hours. The precipitated yellow compound was filtered, washed with water and dried to give 2-(3-pyridyl)thiazol-4-ol as hybromide salt.

reactant | Pyridine-3-carbothioamide | 0.145 mol, 20 g | N1=CC(=CC=C1)C(N)=S | C6H6N2S
reactant | Ethyl bromoacetate | 0.145 mmol, 24.2 g | BrCC(=O)OCC | C4H7BrO2
solvent | toluene | 145 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 116 ml | CN(C)C=O | C3H7NO
product | 2-(3-pyridyl)thiazol-4-ol | N1=CC(=CC=C1)C=1SC=C(N1)O | C8H6N2OS
